US04579845
1-[(2,3-dihydro[4H]1,4-benzodioxin-2 yl)methyl]4-[N-cyano N'-(1-methyl propyl)guanidinyl methyl]piperidine
A mixture of 3 g 1-[(2,3-dihydro[4H]1,4-benzodioxin-2-yl)methyl]4-[(N-cyano S-methyl isothioureido)methyl]piperidine, 10 ml pyridine and 30 g sec butylamine are heated to the reflux. After evaporation to dryness the resulting oily product is taken up in isopropyl ethyl allowing the recovery of a solid as colourless crystalls. They are recrystallized from isopropanol.

reactant | 1-[(2,3-dihydro[4H]1,4-benzodioxin-2-yl)methyl]4-[(N-cyano S-methyl isothioureido)methyl]piperidine | 3 g | O1C(COC2=C1C=CC=C2)CN2CCC(CC2)CN(C(SC)=N)C#N | C18H24N4O2S
reactant | sec butylamine | 30 g | C(C)(CC)N | C4H11N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-[(2,3-dihydro[4H]1,4-benzodioxin-2 yl)methyl]4-[N-cyano N'-(1-methyl propyl)guanidinyl methyl]piperidine | O1C(COC2=C1C=CC=C2)CN2CCC(CC2)CN(C(=N)NC(CC)C)C#N | C21H31N5O2
